### PR TITLE
Clara/world0introlean

### PR DESCRIPTION
**Pull request by chenne19**
First full draft of World 0. Includes sheets 1-6 going over how to read Lean and basic tactics. Also includes list of tactics for user to keep track as they proceed forward.

### CODE REVIEW

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+
+****
+
+Before we dive into abstract algebra in Section 1, we will begin with the basics
+of Lean in Section 0. As you saw in the Natural Number Game, in Lean, exercises
+are completed using tactics. Section 0 will familiarize you with a few basic tactics
+through some exercises concerning logic, functions, and sets.
+
+To get you used to reading Lean, let us begin with a very basic exercise from
+the Natural Number Game.
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Could you make this description a little more concise?

Also add a small description for what rfl does before the example. Something like "The first tactic we will work with is rfl. rfl does blah blah blah. try typing it in the example and see what happens!"

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+update as you write tactics.
+
+We complete exercises just as we did in the Natural Number Game.
+This example can be completed by rfl, just as it was in the Natural Number Game.
+Putting your cursor to the right of rfl, you will see in the Lean Infoview that
+the Tactic State has updated to read "No goals." This is what we want to see
+with all of our exercises by the time we're done going through this problem set!
+
+Let's see another example from the Natural Number Game, but this time,
+you try completing it yourself! The word "sorry" is used as a placeholder in Lean.
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: replace "word" with "tactic" when you talk about sorry and done

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+
+This is an interactive problem set, where you'll learn to use Lean 4,
+a theorem prover and programming language, while exploring the basics
+of abstract algebra. Through exercises on groups, rings, and fields, you'll
+formalize and verify mathematical proofs. By the end, you should be comfortable
+with using Lean 4 to prove and verify theorems.
+
+This problem set is written under the assumption that you, the user, have
+already completed the Natural Number Game. Additionally, it is assumed that
+the user is in the process of taking an abstract algebra class (i.e. 401 or 501),
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: I don't think we want to assume that the user is a Duke student. Perhaps remove mention of course codes?

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 4]
```diff
@@ -0,0 +1,78 @@
...
+Welcome!
+
+This is an interactive problem set, where you'll learn to use Lean 4,
+a theorem prover and programming language, while exploring the basics
+of abstract algebra. Through exercises on groups, rings, and fields, you'll
+formalize and verify mathematical proofs. By the end, you should be comfortable
+with using Lean 4 to prove and verify theorems.
+
+This problem set is written under the assumption that you, the user, have
+already completed the Natural Number Game. Additionally, it is assumed that
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Add a link to the NNG so that users who haven't played it can be redirected.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 5]
```diff
@@ -0,0 +1,78 @@
...
+the user is in the process of taking an abstract algebra class (i.e. 401 or 501),
+so explanations of concepts will be more concise than a textbook's.
+
+There are solutions provided for your reference. Should you be interested in
+learning more about specific tactics, Lean 4 documentation is available online.
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Links to the documentation would be useful

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+
+****
+
+Before we dive into abstract algebra in Section 1, we will begin with the basics
+of Lean in Section 0. As you saw in the Natural Number Game, in Lean, exercises
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Pedantic points:

1. "exercises" is imprecise. Perhaps "formalizing and proving theorems" or something like that would be better. 
2. Theorems don't need to be proven using tactics. Tactics just make proving theorems more user friendly :)

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+
+We complete exercises just as we did in the Natural Number Game.
+This example can be completed by rfl, just as it was in the Natural Number Game.
+Putting your cursor to the right of rfl, you will see in the Lean Infoview that
+the Tactic State has updated to read "No goals." This is what we want to see
+with all of our exercises by the time we're done going through this problem set!
+
+Let's see another example from the Natural Number Game, but this time,
+you try completing it yourself! The word "sorry" is used as a placeholder in Lean.
+Deleting it will show the objects and goals. After you write a new tactic,
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: "Hypotheses and variables" instead of "objects" seems more precise

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 8]
```diff
@@ -0,0 +1,269 @@
...
+/-NNG Implication World Level 2-/
+/-hint: zero_add still works outside of the NNG-/
+example (y x : Nat) (h1 : 0 + x = 0 + y + 2) : x = y + 2 := by
+  rw[zero_add] at h1
+  rw[zero_add] at h1
+  exact h1
+  done
+
+/-NNG Implication World Level 3-/
+example (x y : Nat) (h1 : x = 37) (h2 : x = 37 → y = 42) : y = 42 := by
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: or simply just "exact h2 h1" works

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 9]
```diff
@@ -0,0 +1,269 @@
+/-
+This is a solutions sheet.
+-/
+
+import Mathlib.Tactic
+
+/-Credit for some exercises goes to Kevin Buzzard and his Formalizing Mathematics
+course OR to the Natural Number Game. If you would like to learn more about Lean,
+Buzzard's course goes more in depth in relation to numerous undergraduate math topics.
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: A link to Formalizing Mathematics 2024 would be helpful

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 10]
```diff
@@ -0,0 +1,269 @@
...
+  done
+
+/-NNG Implication World Level 3-/
+example (x y : Nat) (h1 : x = 37) (h2 : x = 37 → y = 42) : y = 42 := by
+  apply h2 at h1
+  exact h1
+  done
+
+/-NNG Implication World Level 6-/
+example (x : Nat) : x = 37 → x = 37 := by
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Im adding this comment here but if you haven't already, add a little something about how "check" works. (I used it to see if imp_self could close this)

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 11]
```diff
@@ -0,0 +1,269 @@
...
+Delete the sorrys and fill in the proofs.
+-/
+
+/-NNG Implication World Level 1-/
+example (x y z : Nat) (h1 : x + y = 37) (h2 : 3 * x + z = 42) : x + y = 37 := by
+  exact h1
+  done
+
+/-NNG Implication World Level 2-/
+/-hint: zero_add still works outside of the NNG-/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: I think you should mention Mathlib and provide a brief description of what it is at the start of this sheet. On line 38, you can mention that zero_add is a theorem proven in mathlib

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 12]
```diff
@@ -0,0 +1,78 @@
...
+
+This example can be done entirely using the rw tactic and theorems
+that you used in the Natural Number Game.
+-/
+
+example (a b c : Nat) : (a + b) + c = (a + c) + b := by
+  rw[add_assoc]
+  rw[add_assoc]
+  rw[add_comm b]
+  done
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Briefly mention what the tactic `done` does

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 13]
```diff
@@ -0,0 +1,144 @@
...
+example : P ∧ Q → P := by
+  intro h1
+  cases h1 with
+  | intro left right =>
+    exact left
+  done
+
+/-Note that the structure of the tactic looks a bit different. A shortcut to
+getting this structure automatically generated rather than having to type it all
+out is to type "cases h1 (or whatever you want to do cases on) with" and wait for
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: This sentence can be made more precise. "whatever" can be replaced with "hypothesis", for example.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 14]
```diff
@@ -0,0 +1,269 @@
...
+example : (((P → Q) → Q) → Q) → P → Q := by
+  intro h1 h2
+  apply h1
+  intro h3
+  apply h3
+  exact h2
+  done
+
+/-FM Section 1 Sheet 1-/
+example :
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: A lot of the FM questions before this once can be solved with just tauto. Keep the solution doc as is but let them know that tauto makes life easier (also explain in a line what it means). 

I also think we can remove some of these exercises since they're quite similar

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean [hunk 15]
```diff
@@ -0,0 +1,200 @@
...
+
+import Mathlib.Tactic
+
+/-Credit for some exercises goes to Kevin Buzzard and his Formalizing Mathematics
+course OR to the Natural Number Game. If you would like to learn more about Lean,
+Buzzard's course goes more in depth in relation to numerous undergraduate math topics.
+When exercises are from either of these sources, they will be clearly marked so as
+to give credit.-/
+
+/-The tactic constructor should be completely new to you. It is very useful for
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean]: you might want to indicate that a tactic, such as constructor, is a tactic by changing the font or using `` before and after the word signifying the tactic.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean [hunk 16]
```diff
@@ -0,0 +1,200 @@
...
+the line with the new · are indented to indicate that they are associated with a
+certain goal.
+
+For example:-/
+
+/-FM Section 1 Sheet 5-/
+example : (P ↔ Q) ↔ (Q ↔ P) := by
+  constructor
+  · intro h1
+    rw[h1]
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean]: it is standard to put a space between rw and [

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 1 above)
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Maybe mention that if the user is very familiar with lean, then they can skip to the next section

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 17]
```diff
@@ -0,0 +1,269 @@
...
+
+/-NNG Advanced Addition World Level 3-/
+example (x y : Nat) : x + y = y → x = 0 := by
+  intro h1
+  nth_rewrite 2 [← zero_add y] at h1
+  apply add_right_cancel at h1
+  exact h1
+  done
+
+/-Note that tactics exact and apply both have variants, exact? and apply?, which
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Could be nice to just have a simple thm here where they can see exact? and apply? in action. The wording here makes it seem like they arent as powerful as they are

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 18]
```diff
@@ -0,0 +1,166 @@
...
+symm
+induction
+have
+
+You have should have seen all of these previously in the Natural Number Game.
+
+Let's begin with simp. Simp uses lemmas already in mathlib as well as existing
+hypotheses to simplify the goal. Simp has a wide range of uses, so if you are curious
+about uses beyond the very simple examples shown below, looking up the documentation
+is recommened.
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Link to the relevant documentation would be helpful

Comment (Stavan-Jain) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Also mention `simp?`

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet6Solutions.lean [hunk 19]
```diff
@@ -0,0 +1,34 @@
+/-
+This is a solutions sheet.
+-/
+
+/- Tactics!
+
+Below is a list of tactics mentioned in World 0. Feel free to use this list for
+reference to write notes, or keep updating it with tactics mentioned in future worlds.
```
Comment (Stavan-Jain) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet6Solutions.lean]: This link might be worth linking to: [FM 2024 tactic cheatsheet](https://www.ma.imperial.ac.uk/~buzzard/xena/formalising-mathematics-2024/Part_C/cheatsheet.html)

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 20]
```diff
@@ -0,0 +1,144 @@
...
+
+/-FM Section 1 Sheet 4-/
+example : P ∧ Q → P := by
+  intro h1
+  cases h1 with
+  | intro left right =>
+    exact left
+  done
+
+/-Note that the structure of the tactic looks a bit different. A shortcut to
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: "Note that the structure of the tactic looks a bit different. A shortcut to
getting this structure automatically generated rather than having to type it all
out is to just type "cases h1" and then perform the code action "Generate an explicit
pattern match" when available (in VSCode, this shows up as a yellow lightbulb to the
left). "

**Comment by Stavan-Jain** [comment]
This looks really good Clara! I think this is a fantastic way to get users comfortable with lean and the relevant tactics. I think sheet 2 looks a bit too long, but you can change that at your discretion.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 21]
```diff
@@ -0,0 +1,144 @@
...
+  | inl h3 =>
+    apply h1 at h3
+    left
+    exact h3
+  | inr h3 =>
+    right
+    exact h3
+  done
+
+/-On to the next part!-/
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: 7 questions for cases might be more than required? You might be a better judge of that though

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 3 above)
Comment (william11339) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Maybe add "is in the process of taking (or is already familiar with) an abstract algebra class"?

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean [hunk 22]
```diff
@@ -0,0 +1,200 @@
...
+
+/-Note that constructor breaks the goal of P ∧ Q into two goals, ⊢ P and then ⊢ Q.
+
+With the constructor tactic comes the need to talk about some helpful formatting
+in Lean. The · that you see above is used to indicate steps to solve separate goals.
+⊢ P is one goal, so a new dot is added. exact h1 then solves that goal.
+⊢ Q is the next goal, so another dot is added. exact h2 then solves that goal.
+In the case where more than one tactic is requred to resolve the goal, lines following
+the line with the new · are indented to indicate that they are associated with a
+certain goal.
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean]: This could be like super concise. Need like one line to say that you can focus on one goal at a time by using \. 

Also you could mention that hovering over the symbol shows you what to type

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 23]
```diff
@@ -0,0 +1,166 @@
...
+/-NNG Inequality World Level 2-/
+example (x : Nat) : 0 ≤ x := by
+  simp
+  done
+
+example (x : Nat) : x = x := by
+  simp
+  done
+
+example (x y : Nat) (h1 : x = 13) (h2 : y = 2) : x + y = 15 := by
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Honestly cut this down to like 2 or 3 examples

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 4 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: I put in the URL, but I wasn't sure if there was some way to hyperlink so that the full URL doesn't need to be listed?

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 24]
```diff
@@ -0,0 +1,166 @@
...
+
+example (x y z : Nat) (h1 : x = y * z) (h2 : z = 4) : y * 4 = x := by
+  rw[h2] at h1
+  symm
+  exact h1
+  done
+
+/-The induction tactic is similar to the cases tactic in that it uses a specific
+structure, and VSCode can automatically generate the structure once you type something
+like "induction x with." Note that this is different from how you used induction
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: just "induction x", the lightbulb doesnt come up once with is written

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 3 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Changes made.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 5 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Put in a couple links; wasn't sure if they were the best resources. If there are better ones to use, please suggest!

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 25]
```diff
@@ -0,0 +1,166 @@
...
+example (a b c : Nat) (h1 : a = 32) (h2 : b = 4) (h3 : a + (b + c) = 60): 36 + c = 60 := by
+  have h4 := add_assoc a b c
+  rw[← h4] at h3
+  simp [h1, h2] at h3
+  exact h3
+  done
+
+/-Note that there could be many solutions to any given exercise.
+
+Tactics like assumption and specialize are also helpful for dealing with multiple
```
Comment (Anoushka1406) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Since these are not introduced in the natural number game it might be nice to either explain it here or say that they will see better explanations later in the "game". I have asked justin and adam to add an explanation for specialize in their sheet. Ask arim if she mentions assumption

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 6 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Made a couple edits to wording

**Comment by Anoushka1406** [comment]
Overall I think this is great! Once we make the smaller changes I think this should be good to go. The only overarching comment I have is to make the text a little more concise wherever you can (but if its not possible/ you think its better how it is then you dont need to worry about it)

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 1 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Done!

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 7 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Used that wording because that is the wording used in the NNG; put quotations around it so it is more obvious

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean (hunk 12 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Done

Comment (Stavan-Jain) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: hahaha

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 9 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Done and also placed on Sheets 3-5

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean (hunk 16 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean]: Fixed and also fixed all other instances of this with rw.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 14 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Mentioned tauto, going to add in sheet 1 about user moving forward once they're comfortable with tactics

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 11 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Done!

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 10 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Done!

**Review by Anoushka1406 — COMMENTED** [review]
lgtm

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 26]
```diff
@@ -0,0 +1,88 @@
...
+example : 37 * x + q = 37 * x + q := by
+  rfl
+
+/-
+The above example is the very first level of the Natural Number Game.
+In the Natural Number Game, you typed a tactic into a text box, and
+the active goals updated. Here, it is a little different.
+
+Putting your cursor after the word "by," you should see the Tactic State
+appear in your Lean Infoview window to the right of your screen.
```
Comment (justin-t-morrill) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: Maybe add something saying how to pull up the infoview if they don't have it up already.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 27]
```diff
@@ -0,0 +1,88 @@
...
+or theorem is complete.
+
+This example can be done entirely using the rw tactic and theorems
+that you used in the Natural Number Game.
+-/
+
+example (a b c : Nat) : (a + b) + c = (a + c) + b := by
+  rw [add_assoc]
+  rw [add_assoc]
+  rw [add_comm b]
```
Comment (justin-t-morrill) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: This could be a good spot to introduce using multiple rewrites with one rw tactic
You can say that rw [add_assoc, add_assoc, add_comm b] would also work

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 28]
```diff
@@ -0,0 +1,159 @@
...
+/-Let's wrap up our intro to Lean with some more straightforward tactics. We will quickly go over:
+
+simp use symm induction have
+
+You have should have seen all of these previously in the Natural Number Game.
+
+Let's begin with "simp". "Simp" uses lemmas already in mathlib as well as existing hypotheses to
+simplify the goal. "Simp" has a wide range of uses, so if you are curious about uses beyond the very
+simple examples shown below, looking up the documentation is recommended. For example, just as
+"exact" and "apply" have "exact?" and "apply?", "simp" has variation "simp?".
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: My personal preference is to have Lean keywords be surrounded by backticks (the ` character) instead of quotes.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 29]
```diff
@@ -0,0 +1,159 @@
+/-
+This is a solutions sheet.
+-/
+
+import Mathlib.Tactic
+
+/-Credit for some exercises goes to Kevin Buzzard and his Formalizing Mathematics course OR to the
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Lean uses the following syntax for comments in its documentation.

```
/-- # This symbol is used to indicate the beginning of the comment. It has its own line
BODY OF COMMENT BEGINS HERE
Notice that the text of the comment is flush with the symbols that start and end the comment.
-/  # End of comment gets its own line as well.
```

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 30]
```diff
@@ -0,0 +1,159 @@
...
+Formalising Mathematics can be found here:
+<https://www.ma.imperial.ac.uk/~buzzard/xena/formalising-mathematics-2024/index.html>-/
+
+/-Let's wrap up our intro to Lean with some more straightforward tactics. We will quickly go over:
+
+simp use symm induction have
+
+You have should have seen all of these previously in the Natural Number Game.
+
+Let's begin with "simp". "Simp" uses lemmas already in mathlib as well as existing hypotheses to
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: I think the wording of the second sentence could be improved a bit. If a lemma is in Mathlib, writing that it already exists is redundant.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 31]
```diff
@@ -0,0 +1,159 @@
...
+
+example (x : Nat) : x = x := by
+  simp
+  done
+
+example (x y : Nat) (h1 : x = 13) (h2 : y = 2) : x + y = 15 := by
+  simp [h1, h2]
+  done
+
+/-Moving on to the "use" tactic. A quick shortcut that indicates whether this tactic will be handy
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Perhaps it'd be better to talk what `\exists` means that makes `use` necessary. Maybe something along the lines of `\exists` is a proposition that a value exists satisfying some condition. To prove an `\exists`, you need to provide a specific value as evidence: for which you use `use`.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 32]
```diff
@@ -0,0 +1,80 @@
...
+
+As you saw in the Natural Number Game, in Lean, theorems are proven using the help of tactics. World
+0 will familiarize you with a few basic tactics through some exercises concerning logic and basic
+arithmetic.
+
+To get you used to reading Lean, let us begin with a very basic exercise from the Natural Number
+Game.
+--/
+
+example (x q : Nat): 37 * x + q = 37 * x + q := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: To keep with formatting, we should add a space before the colon.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean [hunk 33]
```diff
@@ -0,0 +1,80 @@
...
+The above example is the very first level of the Natural Number Game. In the Natural Number Game,
+you typed a tactic into a text box, and the active goals updated. Here, it is a little different.
+
+Putting your cursor after the word "by," you should see the Tactic State appear in your Lean
+Infoview window to the right of your screen. There, you will see what you saw in the Natural Number
+Game as "Objects" and "Active Goals". What you see after the "⊢" is your Active Goal, and it will
+update as you write tactics.
+
+We complete exercises just as we did in the Natural Number Game. This example can be completed by
+rfl, just as it was in the Natural Number Game. Putting your cursor to the right of rfl, you will
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet1Solutions.lean]: You should surround `rfl` with quotes or backticks. Otherwise, this comment is excellent!

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 34]
```diff
@@ -0,0 +1,283 @@
+/-
+This is a solutions sheet.
+-/
+
+import Mathlib.Tactic
+
+/-Credit for some exercises goes to Kevin Buzzard and his Formalizing Mathematics course OR to the
+Natural Number Game. If you would like to learn more about Lean, Buzzard's course goes more in depth
+in relation to numerous undergraduate math topics. When exercises are from either of these sources,
+they will be clearly marked so as to give credit.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Don't love the wording of this paragraph. It reads a bit too much like something we "had" to put here because some higher-up said so. Maybe reword it to imply more that "Buzzard just did it so well that we couldn't not use his work, and you should check it out too!"

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 35]
```diff
@@ -0,0 +1,283 @@
...
+<https://www.ma.imperial.ac.uk/~buzzard/xena/formalising-mathematics-2024/index.html>-/
+
+/-
+Many basic tactics in Lean are best introduced through logic exercises. You already know "rfl" and
+"rw" from the Natural Number Game (NNG), and you are also already familiar with a few other basic
+tactics. However, keep in mind that the way these tactics work in the Natural Number Game may be
+slightly different than the way that they are actually used in Lean. These differences mostly boil
+down to slight discrepancies in syntax.
+
+Mathlib is the library of theorems that have already been formalized in Lean. Theorems in mathlib
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: The first sentence of this paragraph isn't entirely true. It doesn't contain everything formalized in Lean to my knowledge, nor do I think it intends to. It's meant to be comprehensive, but not complete (per https://leanprover-community.github.io/).

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 36]
```diff
@@ -0,0 +1,283 @@
...
+apply
+intro
+
+To continue getting used to reading Lean and working with the Lean Infoview, let's do a few levels
+from the NNG. Don't forget that you can also use "rw" and "rfl"! Delete the "sorry"s and fill in the
+proofs.
+-/
+
+/-NNG Implication World Level 1-/
+example (x y z : Nat) (h1 : x + y = 37) (h2 : 3 * x + z = 42) : x + y = 37 := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Would it be better to pull out all uses of `x`, `y` and `z` into a `variable` declaration instead? That'd also give the opportunity to explain that.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 37]
```diff
@@ -0,0 +1,283 @@
...
+example (x : Nat) : x = 37 → x = 37 := by
+  intro h1
+  exact h1
+  done
+
+/-Let's move on beyond the NNG to do some exercises you haven't seen before. The following exercises
+are from Kevin Buzzard's Formalizing Mathematics.-/
+
+variable (P Q R S T : Prop)
+/-Note that the variables we are working with here are of the type Prop.-/
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: I suggest a rephrase to something like

>This `variable` declaration indicates that for the rest of the file, references to `P`, `Q`, `R`, `S` and `T` will all be references to arbitrary values of type `Prop`.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 38]
```diff
@@ -0,0 +1,283 @@
...
+
+/-FM Section 1 Sheet 1-/
+example : P → P := by
+  intro h
+  exact h
+  done
+
+/-FM Section 1 Sheet 1-/
+example : P → Q → P := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: This is a good opportunity to note that the function arrow is right-associative (meaning the right-most arrow is the first one considered; it's read right-to-left).

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 39]
```diff
@@ -0,0 +1,283 @@
...
+      ((((P → P) → Q) → P → P → Q) → R) → (((P → P → Q) → (P → P) → Q) → R) → R := by
+  intro h1 h2 h3
+  apply h2
+  intro h4 h5 h6
+  apply h4
+  intro h7
+  exact h5
+  done
+
+/-The ↔ means "if and only if." If you are ever curious how to type a certain symbol in Lean, just
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Love this

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 40]
```diff
@@ -0,0 +1,283 @@
...
+  done
+
+/-FM Section 1 Sheet 5-/
+example : (P ↔ Q) → (Q ↔ R) → (P ↔ R) := by
+  intro h1 h2
+  rw [h2] at h1
+  exact h1
+  done
+
+/-Note that many of the exercises above could be solved in one line, using the tactic "tauto," just
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: It'd be fun to explain where "tauto" comes from, so you don't have idiots like me pronouncing it T-auto!

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 41]
```diff
@@ -0,0 +1,283 @@
...
+  done
+
+/-FM Section 1 Sheet 2-/
+example : P → (P → False) → False := by
+  intro h1 h2
+  apply h2 at h1
+  exact h1
+  done
+
+/-The tactic "exfalso" changes any goal after the ⊢ symbol to "False."
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Why is it called `exfalso`? Good opportunity to note a quirk of Lean logic: if you have a proof of False, you can generate a proof of anything.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 42]
```diff
@@ -0,0 +1,283 @@
...
+
+/-FM Section 1 Sheet 2-/
+example : (True → False) → P := by
+  intro h1
+  exfalso
+  apply h1
+  trivial
+  done
+
+/-To wrap up this part, note that the more advanced form of the "rw" tactic is "nth_rewrite". This
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: The difference between `rewrite` and `rw` is subtle...is it even worth mentioning? Anyway, we should introduce both, simply because `rw` is shorter and therefore better :).

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean [hunk 43]
```diff
@@ -0,0 +1,283 @@
...
+
+/-NNG Advanced Addition World Level 3-/
+example (x y : Nat) : x + y = y → x = 0 := by
+  intro h1
+  nth_rewrite 2 [← zero_add y] at h1
+  apply add_right_cancel at h1
+  exact h1
+  done
+
+/-Note that tactics "exact" and "apply" both have variants, "exact?" and "apply?", which both go
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: It'd be good to spell out the differences between the two better.
* `exact?` looks for theorems that *close* the goal.
* `apply?` looks for theorems that can be `apply`'d, but don't necessarily close the goal.
  * also would be nice to mention that this one is hit or miss. It won't work at all if you need to use `rw`.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 44]
```diff
@@ -0,0 +1,143 @@
+/-
+This is a solutions sheet.
+-/
+
+import Mathlib.Tactic
+
+/-Credit for some exercises goes to Kevin Buzzard and his Formalizing Mathematics course OR to the
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: This paragraph doesn't need to be used in every sheet. Once is sufficient.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 45]
```diff
@@ -0,0 +1,143 @@
...
+
+Formalising Mathematics can be found here:
+<https://www.ma.imperial.ac.uk/~buzzard/xena/formalising-mathematics-2024/index.html>-/
+
+/-In the Natural Number Game, you used the tactics:
+
+left
+right
+
+Let's do a couple warm up exercises from Formalizing Mathematics using these. Note that the ∨ symbol
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: A quick reminder of what these two tactics do would be helpful, for someone who didn't finish NNG or simply forgot about `left` and `right`.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 46]
```diff
@@ -0,0 +1,143 @@
...
+/-FM Section 1 Sheet 6-/
+example : Q → P ∨ Q := by
+  intro h
+  right
+  exact h
+  done
+
+/-Also in the Natural Number Game, you learned a tactic called "cases". However, the functionality
+and syntax you learned is actually closer to the tactic cases' (called cases prime), which is a more
+specific functionality of the broader tactic. Let's now go over how to use the "cases" tactic.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: >However, the functionality and syntax you learned is closer to that of Lean 3. Lean 4 uses a different syntax. The old Lean 3 synax is still accessible using the `cases'` tactic, but you should aim to use Lean 4's syntax instead. Let's now go over how to use this new syntax.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean [hunk 47]
```diff
@@ -0,0 +1,143 @@
...
+
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: This is also a great opportunity to mention `obtain`.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean [hunk 48]
```diff
@@ -0,0 +1,198 @@
...
+/-Credit for some exercises goes to Kevin Buzzard and his Formalizing Mathematics course OR to the
+Natural Number Game. If you would like to learn more about Lean, Buzzard's course goes more in depth
+in relation to numerous undergraduate math topics. When exercises are from either of these sources,
+they will be clearly marked so as to give credit.
+
+Formalising Mathematics can be found here:
+<https://www.ma.imperial.ac.uk/~buzzard/xena/formalising-mathematics-2024/index.html>-/
+
+/-The tactic "constructor" should be completely new to you. It is very useful for deconstructing
+goals that use "and" (∧). It is similar to the "cases" tactic in the way that it breaks up one goal
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet4Solutions.lean]: `And` is certainly an application, but note that this works for any structure. You should mention that, because it's used for many other cases later in this document: `iff`, `exists`, and some other custom ones.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 49]
```diff
@@ -0,0 +1,159 @@
...
+    intro h1
+    rfl
+  | succ n ih =>
+    intro h2
+    simp [h2] at ih
+    simp [ih] at h2
+    done
+
+/-The "have" tactic should also be familiar to you. With the "have" tactic, the user can add a new
+hypothesis to the list of existing hypotheses after proving it is true.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: `have` is an important tactic, as it lends itself to the use of "forwards logic", in that you build up a hypothesis to match the goal. This is one often used in proofs on paper. However, Lean proofs tend to be more elegant if they use "backwards logic", as in changing the goal to match a hypothesis (for example, the "apply" tactic uses backwards logic by default). I think this is something important for a new user to consider, though we should emphasize that both approaches are valid.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean [hunk 50]
```diff
@@ -0,0 +1,159 @@
...
+  done
+
+/-Note that there could be many solutions to any given exercise.
+
+Tactics like "assumption" and "specialize" are also helpful for dealing with multiple hypotheses.
+
+You now know enough tactics to progress beyond these simpler exercises to applying what you know
+about Lean to abstract algebra. In future worlds, we go beyond only working with the natural numbers
+or simple Prop variables to creating Groups as defined in abstract algebra, so keep an eye out for
+the way these are made, as Types are an important concept when working with Lean.
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: >...or simple `Prop` variables to creating algebraic structures such as groups. This means that the types you will be working with will become more intricate and complex...

Not sure exactly how to fix this paragraph, but I definitely feel it needs work.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet6Solutions.lean [hunk 51]
```diff
@@ -0,0 +1,37 @@
...
+done
+sorry
+intro
+exact
+  - exact?
+apply
+  - apply?
+trivial
+exfalso
+nth_rewrite
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet6Solutions.lean]: replace with `nth_rw`?

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet6Solutions.lean [hunk 52]
```diff
@@ -0,0 +1,37 @@
...
+cases
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet6Solutions.lean]: `obtain`?

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]
I really like this so far! There are a few paragraphs that I feel could do with some rephrasing, but all in all this is very approachable without seeming too hand-hold-y.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean (hunk 29 above)
Comment (MithicSpirit) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Note that `/--` means that it is a docstring. If you just use `/-` then it is treated as a regular comment. I think that `/-` makes more sense for chapter 0.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 38 above)
Comment (MithicSpirit) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: i.e., that this is parsed the same as `P → (Q → P)`.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 42 above)
Comment (MithicSpirit) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: or just always use `rw` stuff and ignore `rewrite` altogether?

**Review by MithicSpirit — CHANGES_REQUESTED** [review]
#22

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 34 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: I'd just like to keep it this way; just a personal preference for formality

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 36 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Good point, but I didn't do this so that the student would be able to see x y z defined clearly (and since I put in a little note about `variable` a few exercises down)

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 38 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Note added in exercise.

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean (hunk 37 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet2Solutions.lean]: Done

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean (hunk 44 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet3Solutions.lean]: Paragraph deleted from Sheets 3-5

File: AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean (hunk 49 above)
Comment (chenne19) [reply AlgebraInLean/World0LeanIntroSOLUTIONS/Sheet5Solutions.lean]: Note added.

**Review by MAO3J1m0Op — APPROVED** [review]
I think we're ready to go now (apart from the `done` shenanigans)

**Review by MithicSpirit — APPROVED** [review]
looks good enough

**Review by Stavan-Jain — APPROVED** [review]
lgtm

**Review by william11339 — APPROVED** [review]

**Review by justin-t-morrill — APPROVED** [review]
